*
* Diode Sim Model Produced by Altium Ltd
* Date:  19-Mar-2003
*
* Manufacturer: Philips
* Component Name: BAV103
*
* This macromodel models the effect of high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BAV103 10 30
D1 10 20 DIDEAL
D2 20 30 DHIGH

* Subcircuit models
.MODEL DIDEAL D
+(
+ IS =  2.191E-08
+ RS =  0.001
+ N =  2.233
+ TT =  5.194E-08
+ CJO =  1.45E-12
+ VJ =  0.75
+ M =  0.1001
+ BV =  293.1
+ IBV =  0.001293
+)

.MODEL DHIGH D
+(
+ IS =  0.020082402
+ N =  2.233
+)

.ENDS BAV103






