*
* Diode Sim Model Produced by Altium Ltd
* Date:  24-Mar-2003
*
* Manufacturer: Philips
* Component Name: BAV23
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BAV23 10 30
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

* Subcircuit models
.MODEL DIDEAL D
+(
+  IS =  3.7106E-09
+  N =  1.9403
+  TT =  3.751E-08
+  CJO =  7.9474E-13
+  VJ =  0.3905
+  M =  0.10536
+  BV =  319.86
+  IBV =  5.17E-06
+)

.MODEL DHIGH D
+(
+  IS =  4.640134335
+  N =  1.9403
+  RS =  0.41967
+)

.MODEL DRECOMB D
+(
+  IS =  9.61006E-09
+  N =  1.995636079
+)

.ENDS BAV23








