******************************************************
.SUBCKT BAW156 1 2 3
D1 3 1 DBAW156
D2 3 2 DBAW156
.MODEL DBAW156 D (IS=473P RS=42M N=1.75 BV=70 IBV=1.3U
+ CJO=2.65P VJ=.75 M=.333 TT=4.32U)
*  70 Volt  .2 Amp  3 us  Si Diode  02-27-1996
.ENDS BAW156