*BC372 MCE 6/19/97
*Ref: Motorola Small-Signal Device Databook, Q4/94
*Si 625mW 100V 1000mA pkg:TO-92B 1,2,3
.SUBCKT BC372    1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.2P NF=1 BF=274 VAF=180 IKF=0.8 ISE=35.8P NE=2
+ BR=4 NR=1 VAR=48 IKR=1.2 RE=0.6 RB=2.4 RC=0.24 CJE=367P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=17.4P VJC=1.1 MJC=0.24 TF=110N TR=4.76U)
.ENDS 
* Origin: Mcebjt.lib
