*BC517 MCE 6/19/97
*Ref: Motorola Small-Signal Device Databook, Q4/94
*Si 625mW 30V 1000mA pkg:TO-92B 1,2,3
.SUBCKT BC517    1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.2P NF=1 BF=245 VAF=98.6 IKF=0.36 ISE=26.8P NE=2
+ BR=4 NR=1 VAR=40 IKR=0.54 RE=1.5 RB=6 RC=0.6 CJE=147P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=9.48P VJC=1.1 MJC=0.24 TF=60.3N TR=2.61U)
.ENDS 
* Origin: Mcebjt.lib
