*BC618 MCE 6/19/97
*Ref: Motorola Small-Signal Device Databook, Q4/94
*Si 625mW 55V 1000mA pkg:TO-92B 1,2,3
.SUBCKT BC618    1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.2P NF=1 BF=141 VAF=133 IKF=0.36 ISE=46.5P NE=2
+ BR=4 NR=1 VAR=48 IKR=0.54 RE=0.75 RB=3 RC=0.3 CJE=126P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=7.84P VJC=1.1 MJC=0.24 TF=81.6N TR=3.53U)
.ENDS 
* Origin: Mcebjt.lib
