*BCV27 MCE 5-9-97
*Ref: National Discrete Products Databook, 1996
*Si 350mW 30V 1.2A pkg:SOT-23 1,3,2
.SUBCKT BCV27    1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.44P NF=1 BF=107 VAF=98.6 IKF=0.96 ISE=110P NE=2
+ BR=4 NR=1 VAR=40 IKR=1.44 RE=0.333 RB=1.33 RC=0.133 CJE=54.1P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=7.81P VJC=1.1 MJC=0.24 TF=60.3N TR=2.61U)
.ENDS 


