*
.SUBCKT BCV46 1 2 3
*
* For use with Microsim PSPICE
* please modify the AREA statement
* in this model:  e.g.
* SPICE:
* Q2 11 222 33 BCV46 AREA = 4.68
* PSPICE:
* Q2 11 222 33 BCV46 4.68
*
* housing parasitics
LB 2 22 1.25E-09
LE 3 33 1.12E-09
LC 1 11 2.3E-10
*
CBCG 22 11 6.2E-14
CBEG 22 33 4.5E-14
CCEG 11 33 6.2E-14
*
Q1 11 22 222 BCV46 AREA = 1
Q2 11 222 33 BCV46 AREA = 4.68
*
.MODEL BCV46 PNP
+(
+ IS = 1.593E-14
+ NF = 0.9855
+ ISE = 7E-15
+ NE = 1.5
+ BF = 280
+ IKF = 0.09
+ VAF = 31
+ NR = 1
+ ISC = 1E-32
+ NC = 2
+ BR = 5
+ IKR = 0.1
+ VAR = 4
+ RB = 600
+ IRB = 1E-06
+ RBM = 10
+ RE = 0.1
+ RC = 1
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.32E-11
+ VJE = 0.9
+ MJE = 0.4141
+ TF = 9.9E-10
+ XTF = 15
+ VTF = 5
+ ITF = 0.4
+ PTF = 0
+ CJC = 7.95E-12
+ VJC = 0.9
+ MJC = 0.5622
+ XCJC = 0.9
+ TR = 1E-15
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.98
+)
*
.ENDS
*