*
* BCV65 NPN/PNP General Purpose Transistor
*
.SUBCKT BCV65 1 2 3 4
*
Q1 1 2 4 BC847B
Q2 3 2 4 BC857B
*
.MODEL BC847B NPN
+     IS = 1.822E-14
+     NF = 0.9932
+     ISE = 2.894E-16
+     NE = 1.4
+     BF = 324.4
+     IKF = 0.109
+     VAF = 82
+     NR = 0.9931
+     ISC = 9.982E-12
+     NC = 1.763
+     BR = 8.29
+     IKR = 0.09
+     VAR = 17.9
+     RB = 10
+     IRB = 5E-06
+     RBM = 5
+     RE = 0.649
+     RC = 0.7014
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.244E-11
+     VJE = 0.7579
+     MJE = 0.3656
+     TF = 4.908E-10
+     XTF = 9.51
+     VTF = 2.927
+     ITF = 0.3131
+     PTF = 0
+     CJC = 3.347E-12
+     VJC = 0.5463
+     MJC = 0.391
+     XCJC = 0.6193
+     TR = 9E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.979
.MODEL BC857B PNP
+     IS = 2.014E-14
+     NF = 0.9974
+     ISE = 6.578E-15
+     NE = 1.45
+     BF = 315.3
+     IKF = 0.079
+     VAF = 39.15
+     NR = 0.9952
+     ISC = 1.633E-14
+     NC = 1.15
+     BR = 8.68
+     IKR = 0.09
+     VAR = 9.5
+     RB = 10
+     IRB = 5E-06
+     RBM = 5E-06
+     RE = 0.663
+     RC = 0.718
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.135E-11
+     VJE = 0.7071
+     MJE = 0.3808
+     TF = 6.546E-10
+     XTF = 5.387
+     VTF = 6.245
+     ITF = 0.2108
+     PTF = 0
+     CJC = 6.395E-12
+     VJC = 0.4951
+     MJC = 0.44
+     XCJC = 0.6288
+     TR = 5.5E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.9059
.ENDS
*