*
.SUBCKT BCV61A 1 2 3 4
*
Q1 2 1 3 QBCV61A
Q2 1 1 4 QBCV61A
*
.MODEL QBCV61A NPN(
+     IS = 9.677E-15
+     NF = 0.9922
+     ISE = 5.44E-15
+     NE = 2
+     BF = 182.1
+     IKF = 0.14
+     VAF = 143.8
+     NR = 0.9935
+     ISC = 5.236E-12
+     NC = 1.53
+     BR = 7.004
+     IKR = 0.06
+     VAR = 31.15
+     RB = 10
+     IRB = 5E-06
+     RBM = 4
+     RE = 0.78
+     RC = 0.656
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.443E-11
+     VJE = 0.733
+     MJE = 0.3514
+     TF = 6.04E-10
+     XTF = 8.94
+     VTF = 3.78
+     ITF = 0.2711
+     PTF = 0
+     CJC = 3.287E-12
+     VJC = 0.5444
+     MJC = 0.3954
+     XCJC = 0.693
+     TR = 1.1E-07
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.789)
.ENDS
*