*
.SUBCKT BCV61C 1 2 3 4
*
Q1 2 1 3 QBCV61C
Q2 1 1 4 QBCV61C
*
*
.MODEL QBCV61C NPN(
+     IS = 2.375E-14
+     NF = 0.9925
+     ISE = 5.16E-16
+     NE = 1.3
+     BF = 524.9
+     IKF = 0.09
+     VAF = 49.77
+     NR = 0.9931
+     ISC = 7.064E-12
+     NC = 1.78
+     BR = 10.04
+     IKR = 0.132
+     VAR = 16
+     RB = 10
+     IRB = 5E-06
+     RBM = 5
+     RE = 0.653
+     RC = 0.78
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.132E-11
+     VJE = 0.7685
+     MJE = 0.3733
+     TF = 4.258E-10
+     XTF = 6.319
+     VTF = 6.4
+     ITF = 0.1845
+     PTF = 0
+     CJC = 3.379E-12
+     VJC = 0.5444
+     MJC = 0.3968
+     XCJC = 0.6193
+     TR = 9.5E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.999)
.ENDS
*