*
.SUBCKT BCV62C 1 2 3 4
*Q1  PNP  2=C  1=B  3=E
*Q2  PNP  1=C  1=B  4=E
*
Q1 2 1 3 QBCV62C
Q2 1 1 4 QBCV62C
*
.MODEL QBCV62C PNP(
+     IS = 3.258E-14
+     NF = 0.999
+     ISE = 3.003E-15
+     NE = 1.45
+     BF = 515.4
+     IKF = 0.066
+     VAF = 25
+     NR = 0.9985
+     ISC = 4.393E-15
+     NC = 1.2
+     BR = 15.26
+     IKR = 0.039
+     VAR = 8
+     RB = 10
+     IRB = 5E-06
+     RBM = 5
+     RE = 0.7071
+     RC = 0.58
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.024E-11
+     VJE = 0.9
+     MJE = 0.453
+     TF = 5.971E-10
+     XTF = 4.137
+     VTF = 6.31
+     ITF = 0.2108
+     PTF = 0
+     CJC = 6.345E-12
+     VJC = 0.4254
+     MJC = 0.423
+     XCJC = 0.6288
+     TR = 3.5E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.78)
*
.ENDS