*
.SUBCKT BF570 1 2 3
* housing parasitics
LB 2 22 1.25E-9
LE 3 33 1.12E-09
LC 1 11 0.23E-09
CBCG 22 11 6.2E-14
CBEG 22 33 4.5E-14
CCEG 11 33 6.2E-14
Q1 11 22 33 QBF570
*
.MODEL QBF570 NPN(
+ IS = 1.751E-15
+ NF = 0.998
+ ISE = 3.503E-16
+ NE = 1.148
+ BF = 121.3
+ IKF = 0.17
+ VAF = 57
+ NR = 0.988
+ ISC = 7.44E-11
+ NC = 1.55
+ BR = 0.3812
+ IKR = 0.05
+ VAR = 17
+ RB = 35
+ IRB = 0.0002423
+ RBM = 0.05
+ RE = 0.729
+ RC = 1.01
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.807E-12
+ VJE = 0.55
+ MJE = 0.3135
+ TF = 2.073E-10
+ XTF = 1
+ VTF = 11
+ ITF = 0.17
+ PTF = 0
+ CJC = 1.889E-12
+ VJC = 0.8844
+ MJC = 0.3014
+ XCJC = 1
+ TR = 5E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.8517)
.ENDS
*