*
.SUBCKT BF621 1 2 3
* housing parasitics
LB 2 22 3.454E-9
LE 3 333 3.543E-09
LC 1 11 1E-13
CBCG 22 11 1.705E-13
CBEG 22 333 5.5E-14
CCEG 11 333 1.705E-13
Q1 11 22 333 QBF621 AREA = 1
*
.MODEL QBF621 PNP
+(
+ IS = 8.912E-15
+ NF = 0.9978
+ ISE = 1.62E-15
+ NE = 1.45
+ BF = 130
+ IKF = 0.015
+ VAF = 165
+ NR = 0.9979
+ ISC = 7.8E-13
+ NC = 1.21
+ BR = 2.018
+ IKR = 0.07
+ VAR = 86
+ RB = 200
+ IRB = 8.362E-06
+ RBM = 0.001
+ RE = 0.62
+ RC = 0.255
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.552E-11
+ VJE = 0.7704
+ MJE = 0.3878
+ TF = 1.2E-09
+ XTF = 9
+ VTF = 5
+ ITF = 0.06
+ PTF = 0
+ CJC = 8.382E-12
+ VJC = 0.9588
+ MJC = 0.5687
+ XCJC = 1
+ TR = 1E-32
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
+)
.ENDS
*